US07132551B2
Synthesis of (R)-1-[1-(4-Chloro-phenyl)-cyclobutanecarbonyl]-piperidine-3-carboxylic acid ethyl ester
Ethyl (R)-nipecotate L-tartrate (15.0 g, 48.8 mmol) was added to a stirred mixture of dichloromethane and saturated sodium bicarbonate solution (100 mL each) at 0° C. After 10 min 1-(4-chloro-phenyl)-cyclobutanecarbonyl chloride (11.13 g, 48.8 mmol) was slowly added at 0° C. The reaction was then allowed to stir for 2 h at room temperature. The organic layer was separated and the aqueous layer was washed once with dichloromethane (100 mL). The organic material was combined and washed once with water (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation. The residue was purified by chromatography on silica gel, eluting with hexane/ethyl acetate (2:1) to give 9.2 g of the amidester as a thick clear gum; C19H24ClNO3, LRMS (m/z)=350 (MH+).

reactant | Ethyl (R)-nipecotate L-tartrate | 48.8 mmol, 15.0 g | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.N1C[C@H](C(=O)OCC)CCC1
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | 1-(4-chloro-phenyl)-cyclobutanecarbonyl chloride | 48.8 mmol, 11.13 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)Cl | C11H10Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-1-[1-(4-Chloro-phenyl)-cyclobutanecarbonyl]-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)C(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C19H24ClNO3
